US05889026
4-Bromo-2-fluoroanisole (3 g, 14.6 mmol) was dissolved in toluene (100 ml) and treated successively with tetrakis-(triphenylphosphin)-palladium (0.84 g, 0.73 mmol) and allytributylstannane (5.8 ml, 19 mmol). Reaction mixture was refluxed for 23 hours. After evaporation of the solvent, the residue was dissolved in ether (150 ml) and stirred in the presence of sat. KF (20 ml) at room temperature for 0.5 hour. Solid was filtered and H2O (100 ml) was added to the filtrate. The aqueous phase was extracted with ether (2×100 ml), combined organic phases were dried over Na2SO4 and concentrated. The residue was chromatographed over silica gel (hexan-ethyl acetate 19:1) to provide 4-allyl-2-fluoro-1-methoxy-benzene (1.26 g, 52%) as a colorless oil MS: m/e=166 (M+).

reactant | 4-Bromo-2-fluoroanisole | 14.6 mmol, 3 g | BrC1=CC(=C(C=C1)OC)F | C7H6BrFO
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis-(triphenylphosphin)-palladium | 0.73 mmol, 0.84 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-allyl-2-fluoro-1-methoxy-benzene | 1.26 g, 52% | C(C=C)C1=CC(=C(C=C1)OC)F | C10H11FO
